US09210927B2
Step 1: (E)-1-(Pyridin-2-yl)-N-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzyl)methanamine
(E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)phenyl)methanamine (0.46 g, 1 mmol) was dissolved in MeOH (3 mL). To this was added pyridine-2-carbaldehyde (0.107 g, 1 mmol). The reaction mixture was stirred for 1 h. After 1 h, NaBH4 (0.076 g, 2 mmol) was added and left at ambient temperature for 3 h. The reaction mixture was concentrated to give an oily residue. Purification by flash column chromatography (SiO2, 100-200 mesh; 30-50% EtOAc in hexane) afforded the title compound as a pale yellow liquid (0.22 g, 40%): 1H NMR (400 MHz, CDCl3) δ 8.58 (d, J=4.8 Hz, 1H), 7.74 (m, 1H), 7.62 (m, 2H), 7.52 (m, 1H), 7.4 (s, 2H), 7.3 (m, 1H), 7.2 (m, 2H), 6.60 (d, J=16.0 Hz, 1H), 6.38 (dd, J=16.0, 8.0 Hz, 1H), 4.10 (m, 1H), 4.02 (s, 2H), 3.96 (s, 2H); ESIMS m/z 552.95 ([M+H]+); IR (thin film) 3338, 1114, 808 cm−1.

reactant | (E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)phenyl)methanamine | 1 mmol, 0.46 g | FC(C(/C=C/C1=CC(=C(C=C1)CN)C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C18H12Cl3F6N
reactant | pyridine-2-carbaldehyde | 1 mmol, 0.107 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | NaBH4 | 2 mmol, 0.076 g | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | (E)-1-(Pyridin-2-yl)-N-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzyl)methanamine | 0.22 g, 40% | N1=C(C=CC=C1)CNCC1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C(F)(F)F | C24H17Cl3F6N2
